US07910595B2
A mixture of 4-chloro-3-nitrobenzoyl chloride was reacted with (4-Bromo-phenyl)-hydrazine to produce 4-Chloro-3-nitro-benzoic acid N′-(4-bromo-phenyl)-hydrazide according to the procedure of Example 10A, which was treated sequentially using the procedures from Examples 100A, 100B and 100C to provide the title product.

reactant | 4-chloro-3-nitrobenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | (4-Bromo-phenyl)-hydrazine | BrC1=CC=C(C=C1)NN | C6H7BrN2
product | 4-Chloro-3-nitro-benzoic acid N′-(4-bromo-phenyl)-hydrazide | BrC1=CC=C(C=C1)NNC(C1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O | C13H9BrClN3O3
